US05177089
N-(2-(3,4-dimethoxyphenyl)ethyl)piperidine-2-methanol
2.33 g of lithium aluminum hydride was suspended into 50 ml of tetrahydrofuran and stirred. 3.94 g of methyl N-(3,4-dimethoxyphenylacetyl)piperidine-2-carboxylate was dissolved in 20 ml of tetrahydrofuran, which was dropped and, thereafter, refluxed for 30 min. After cooling with ice and decomposing the excess reagent with ethyl acetate, 2.3 ml of water, 2.3 ml of an aqueous 15% solution of sodium hydroxide and 7 ml of water were added successively and, further, anhydrous magnesium sulfate was added and stirred. Insoluble matters were filtered out and the filtrate was washed thoroughly with tetrahydrofuran. The filtrate was concentrated and purified on silica gel column chromatography (solvent: dichloromethane:methanol:concentrated aqueous ammonium=1000:100:2), to obtain 2.77 g of the above-captioned compound as white solid (yield: 81%).

reactant | lithium aluminum hydride | 2.33 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | methyl N-(3,4-dimethoxyphenylacetyl)piperidine-2-carboxylate | 3.94 g | COC=1C=C(C=CC1OC)CC(=O)N1C(CCCC1)C(=O)OC | C17H23NO5
reactant | sodium hydroxide | [OH-].[Na+]
reactant | magnesium sulfate | S(=O)(=O)([O-])[O-].[Mg+2]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | water | 7 ml | O | H2O
solvent | water | 2.3 ml | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(2-(3,4-dimethoxyphenyl)ethyl)piperidine-2-methanol | 2.77 g, yield: 81% | COC=1C=C(C=CC1OC)CCN1C(CCCC1)CO | C16H25NO3
